US05614517
8-Oxo-5,8-dihydro-6H-dibenzo[a,g]quinolizine-13-propanoic acid
2.45 g (7.35 mmol) of methyl 8-oxo-5,8-dihydro-6H-dibenzo[a,g]quinolizine-13-propanoate dissolved in 40 ml of ethanol are introduced into a 100 ml round-bottomed flask, 2 ml of aqueous 30% sodium hydroxide are added and the mixture is heated at reflux for 3 h.

reactant | methyl 8-oxo-5,8-dihydro-6H-dibenzo[a,g]quinolizine-13-propanoate | 7.35 mmol, 2.45 g | O=C1N2CCC3=C(C2=C(C2=C1C=CC=C2)CCC(=O)OC)C=CC=C3 | C21H19NO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 8-Oxo-5,8-dihydro-6H-dibenzo[a,g]quinolizine-13-propanoic acid | O=C1N2CCC3=C(C2=C(C2=C1C=CC=C2)CCC(=O)O)C=CC=C3 | C20H17NO3
